US08017605B2
Step B: 1-(6-methylimidazo[1,2-b]pyridazin-2-yl)methanamine
A mixture of 2-(chloromethyl)-6-methylimidazo[1,2-b]pyridazine (0.6 g, 3.3 mmol) and ammonium hydroxide (25%, 30 ml) was heated to 80° C. in a sealed tube for lhr. The reaction mixture was concentrated under reduced pressure to give title compound as crude product. This material was used in the next step without further purification.

reactant | 2-(chloromethyl)-6-methylimidazo[1,2-b]pyridazine | 3.3 mmol, 0.6 g | ClCC=1N=C2N(N=C(C=C2)C)C1 | C8H8ClN3
reactant | ammonium hydroxide | 30 ml | [OH-].[NH4+]
product | 1-(6-methylimidazo[1,2-b]pyridazin-2-yl)methanamine | CC=1C=CC=2N(N1)C=C(N2)CN | C8H10N4
